US07049333B2
(2-Chloro-4-methylthiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)amine hydrochloride
At room temperature, a solution of N-chlorosuccinimide (124.6 mg) in glacial acetic acid (5 ml) was added dropwise to a solution of (5,6-difluoro-1H-benzimidazol-2-yl)-(4-methylthiophen-3-yl)amine (225 mg) in glacial acetic acid (5 ml). The mixture was then stirred at room temperature for 3.5 hours. The glacial acetic acid was then removed and the residue was taken up in water and adjusted to pH 10 using 2 M aqueous sodium hydroxide solution. The aqueous phase was extracted three times with ethyl acetate, the combined organic phases were dried over magnesium sulfate and the solvent was removed. The residue was purified by preparative chromatography and the product-containing fractions were combined, freed from acetonitrile, made basic and extracted three times with ethyl acetate. The organic phases were combined, dried (MgSO4), filtered and concentrated. The residue was taken up in water, acidified with 10% strength hydrochloric acid and freeze-dried. This gave 81 mg of the desired product as a solid.

reactant | N-chlorosuccinimide | 124.6 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (5,6-difluoro-1H-benzimidazol-2-yl)-(4-methylthiophen-3-yl)amine | 225 mg | FC1=CC2=C(NC(=N2)NC2=CSC=C2C)C=C1F | C12H9F2N3S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | (2-Chloro-4-methylthiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)amine hydrochloride | Cl.ClC=1SC=C(C1NC1=NC2=C(N1)C=C(C(=C2)F)F)C | InChI=1S/C12H8ClF2N3S.ClH/c1-5-4-19-11(13)10(5)18-12-16-8-2-6(14)7(15)3-9(8)17-12;/h2-4H,1H3,(H2,16,17,18);1H
